US07432280B2
Preparation 2: 2-(Bromomethyl)-4-fluoro-1,1′-biphenyl
Triphenylphosphine dibromide (35.5 g, 2 eq) was added in one portion to a solution of (4-fluoro-[1,1′-biphenyl]-2-yl)methanol (8.5 g, 42 mmol) in chloroform (250 mL). The reaction mixture was heated at 60° C. and left to stir overnight. The solid was filtered off and the solvent removed in vacuo. The resulting oil was purified by flash chromatography on silica, eluting with ethyl acetate/cyclohexane (0:100 to 30:70), to give the title compound as an oil.

reactant | Triphenylphosphine dibromide | 35.5 g, 2 eq | [Br-].[Br-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | (4-fluoro-[1,1′-biphenyl]-2-yl)methanol | 42 mmol, 8.5 g | FC1=CC(=C(C=C1)C1=CC=CC=C1)CO | C13H11FO
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(Bromomethyl)-4-fluoro-1,1′-biphenyl | BrCC1=C(C=CC(=C1)F)C1=CC=CC=C1 | C13H10BrF
